US04882085
Hydroquinone mono(2'-dodecyloxypropyl) ether
11.1 g of hydroquinone, 3.1 g of 85% KOH and 100 ml of ethanol were mixed and the reaction was carried out for 2.5 hours. 10.7 g of (2'-dodecyloxypropyl) p-toluenesulfonate was added dropwise and after the reaction was carried out at 60° C. for 3 hours and by heating under reflux for 7.0 hours, ethanol was evaporated. The residue was diluted with 200 ml of water, acidified with a small amount of hydrochloric acid and then extracted with 500 ml of hexane, followed by recrystallization. Yield: 1.1 g (12%). Optical rotation [α]D26° =-8.6°.

reactant | hydroquinone | 11.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | KOH | 3.1 g | [OH-].[K+]
reactant | (2'-dodecyloxypropyl) p-toluenesulfonate | 10.7 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)OCCCCCCCCCCCC)C | C22H38O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Hydroquinone mono(2'-dodecyloxypropyl) ether | C(CCCCCCCCCCC)OC(COC1=CC=C(O)C=C1)C | C21H36O3
